US04977159
Ethyl 4-[(1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indol-2-yl)methyl]-1-piperidinecarboxylate
7.06 g (26.2 mmol) of 2-[(4-piperidyl)methyl]-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole, 70 ml of chloroform and 4 ml (26.2 mmol) of triethylamine are introduced under an argon atmosphere into a Keller flask, and 2.8 ml (26.2 mmol) of ethyl chloroformate are added.

reactant | 2-[(4-piperidyl)methyl]-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 26.2 mmol, 7.06 g | N1CCC(CC1)CN1CC=2NC3=CC=CC=C3C2CC1 | C17H23N3
reactant | triethylamine | 26.2 mmol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 26.2 mmol, 2.8 ml | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-[(1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indol-2-yl)methyl]-1-piperidinecarboxylate | C1N(CCC2=C1NC1=CC=CC=C21)CC2CCN(CC2)C(=O)OCC | C20H27N3O2
